US07902375B2
Step 2: [2-(3-Propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester
N-Hydroxy-butyramidine (0.425 g, 4.16 mmol) in DMF (2 ml) is added to a stirred suspension of sodium hydride (0.183 g of a 60% dispersion in oil, 4.58 mmol) in the presence of molecular sieves (0.4 g). The reaction flask is then immersed in a pre-heated oil bath at 50° C. and stirring continued for 5 min. 3-tert-Butoxycarbonylamino-propionic acid ethyl ester (0.904 g, 4.16 mmol) in DMF (2 ml) is added over 5 min followed by more DMF (2 ml). After 3 h at 50° C. the mixture is cooled to 0° C. and water (3 ml) is added. The mixture is allowed to warm to room temperature then filtered through Celite™ filter material, washing with ethyl acetate, and the solvent is removed. Purification by chromatography, eluting with DCM:MeOH (95:5 increasing to 85:15) affords the titled compound.

reactant | N-Hydroxy-butyramidine | 4.16 mmol, 0.425 g | ONC(CCC)=N | C4H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-tert-Butoxycarbonylamino-propionic acid ethyl ester | 4.16 mmol, 0.904 g | C(C)OC(CCNC(=O)OC(C)(C)C)=O | C10H19NO4
reactant | water | 3 ml | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | [2-(3-Propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC1=NC(=NO1)CCC)=O | C12H21N3O3
